US06348474B1
In the same manner as in Example 1, N,N′-carbonyldiimidazole (0.290 g) was added to a mixture of 6-carboxy-1-(2,4-dichlorobenzyl)-3-methyl-2-benzimidazolone (0.314 g) and N,N-dimethylformamide (9 ml), and the mixture was stirred at room temperature for 1 hr. 1-n-Butanesulfonamide (0.246 g) and DBU (0.273 g) were added and the mixture was stirred at 100° C. for 16 hr. The solvent was evaporated and the resulting mixture was extracted with chloroform and water. The organic layer was concentrated and the residue was purified by preparative thin layer chromatography to give 6-(1-n-butanesulfonylcarbamoyl)-1-(2,4-dichlorobenzyl)-3-methyl-2-benzimidazolone (0.123 g).

reactant | 6-carboxy-1-(2,4-dichlorobenzyl)-3-methyl-2-benzimidazolone | 0.314 g | C(=O)(O)C=1C=CC2=C(N(C(N2C)=O)CC2=C(C=C(C=C2)Cl)Cl)C1 | C16H12Cl2N2O3
reactant | 1-n-Butanesulfonamide | 0.246 g | C(CCC)S(=O)(=O)N | C4H11NO2S
reactant | DBU | 0.273 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | N,N-dimethylformamide | 9 ml | CN(C=O)C | C3H7NO
product | 6-(1-n-butanesulfonylcarbamoyl)-1-(2,4-dichlorobenzyl)-3-methyl-2-benzimidazolone | 0.123 g | C(CCC)S(=O)(=O)NC(=O)C=1C=CC2=C(N(C(N2C)=O)CC2=C(C=C(C=C2)Cl)Cl)C1 | C20H21Cl2N3O4S
